US04198424
1-(3-methoxyphenyl)-2-(1-methyl-2-pyrrolidinyl)ethanone
11.8 g of lithium aluminum hydride are added portionwise at 0° with stirring to 144.8 g of 1-(3-methoxyphenyl)-2-(1-methyl-2-pyrrolidinyliden)ethanone dissolved in 1.4 liters of tetrahydrofuran. 30 minutes after completion of the addition, 300 ml of water are cautiously added dropwise, with cooling; then 800 ml of diethyl ether are added, and the organic phase is collected. The organic phase is dried over sodium sulfate, the solvent is removed by evaporation, and the oily residue is distilled under a vacuum to obtain 127 g (87% of theory) of the title compound:

reactant | lithium aluminum hydride | 11.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-(3-methoxyphenyl)-2-(1-methyl-2-pyrrolidinyliden)ethanone | 144.8 g | COC=1C=C(C=CC1)C(C=C1N(CCC1)C)=O | C14H17NO2
reactant | water | 300 ml | O | H2O
reactant | diethyl ether | 800 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 1.4 liters | O1CCCC1 | C4H8O
product | 1-(3-methoxyphenyl)-2-(1-methyl-2-pyrrolidinyl)ethanone | COC=1C=C(C=CC1)C(CC1N(CCC1)C)=O | C14H19NO2
